US04656180
(7) Preparation of 2-Hydroxy-3-[3-(1-piperidylmethyl)phenyl]-butyronitrile
0.74 g (3.2 mmol) of 2-[3-(1-piperidylmethyl)phenyl]methyl-oxirane, 0.294 g (6 mmol) of sodium cyanide and 0.107 g (2 mmol) of ammonium chloride are boiled in 5 ml ethanol/5 ml water for 6 hours. After substantial concentration of the mother liquor by evaporation under vacuum, the residue is taken up in 10 ml of water, and the solution is adjusted to pH 12 with potassium carbonate and extracted with 3×20 ml of methylene chloride. The organic phase yields 0.82 g of a brown oil after dehydration and evaporation under vacuum.

reactant | 2-[3-(1-piperidylmethyl)phenyl]methyl-oxirane | 3.2 mmol, 0.74 g | N1(CCCCC1)CC=1C=C(C=CC1)CC1OC1 | C15H21NO
reactant | sodium cyanide | 6 mmol, 0.294 g | [C-]#N.[Na+]
reactant | ammonium chloride | 2 mmol, 0.107 g | [Cl-].[NH4+]
reactant | ethanol | 5 ml | C(C)O | C2H6O
product | 2-Hydroxy-3-[3-(1-piperidylmethyl)phenyl]-butyronitrile | 0.82 g | OC(C#N)C(C)C1=CC(=CC=C1)CN1CCCCC1 | C16H22N2O
